US08022069B2
3-{(2S,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-2-yl}-2,2,N-trimethyl -propionamide
To a solution of 4.0 mmol of methyl isobutyrate in 2 ml of THF at −78° C. are added 4.0 mmol of lithiumdiisopropyl amide solution (0.5 M in THF) and the reaction mixture is stirred for 30 min at −78° C. Then 8.0 mmol of hexamethylphosphoramide is added at −78° C. and the mixture is stirred for 30 min. A solution of 1.0 mmol of 6-[(3R,4R,6S) -6-bromomethyl-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-1-(toluene-4-sulfonyl) -piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine in 2 ml of THF is then added dropwise to the “enolate” at −78° C. and the solution is stirred for 30 min. The reaction mixture is allowed to warm to −12° C. and stirred at this temperature for 40 min. The solution is quenched with 1M aqueous HCl and extracted with 200 ml of EtOAc (3×). The combined organic layers are washed with brine and dried with Na2SO4. The organic layer is filtered and evaporated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as yellow oil. Rf=0.41 (EtOAc/heptane 1:3); Rt=5.93 (gradient I).

reactant | methyl isobutyrate | 4.0 mmol | C(C(C)C)(=O)OC | C5H10O2
reactant | lithiumdiisopropyl amide | 4.0 mmol, 0.5 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | hexamethylphosphoramide | 8.0 mmol | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 6-[(3R,4R,6S) -6-bromomethyl-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-1-(toluene-4-sulfonyl) -piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 1.0 mmol | BrC[C@@H]1C[C@@H]([C@H](CN1)OC(S(=O)(=O)C1=CC=C(C=C1)C)C=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)COC[C@@H](C)OCC | C38H51BrN2O7S
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-{(2S,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-2-yl}-2,2,N-trimethyl -propionamide | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@H](NC[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)CC(C(=O)NC)(C)C)C | C36H55N3O6
